US07906522B2
2-Chloro-4-nitropyridine (2.0 g, 12.2 mmol) was dissolved in THF (30 mL) and the solution was added with pyrrolidine (3.25 mL, 38.9 mmol), followed by stirring at 80° C. overnight. After an insoluble matter of the reaction mixture was filtered off, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80) to obtain 4-nitro-2-(pyrrolidin-1-yl)pyridine (560 mg, 24%).

reactant | 2-Chloro-4-nitropyridine | 12.2 mmol, 2.0 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | pyrrolidine | 38.9 mmol, 3.25 mL | N1CCCC1 | C4H9N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-nitro-2-(pyrrolidin-1-yl)pyridine | 560 mg, 24% | [N+](=O)([O-])C1=CC(=NC=C1)N1CCCC1 | C9H11N3O2
